US05380878
To a mixture of 10 ml of toluene and 100 ml of a 50% aqueous sodium hydroxide solution were added 10 g of (-)-2-(benzo[b]thiophen-5-yl)-2-(tetrahydropyranyloxy)ethanol, 8.04 g of 2-(N,N-diethylamino)ethyl chloride hydrochloride and 610 mg of tetra-n-butylammonium hydrogensulfate, and the resulting mixture was refluxed for 1.5 hours. The reaction mixture was cooled to 20° C., and thereto were then added 90 ml of toluene and 150 ml of water, after which the organic layer formed was separated. The aqueous layer was extracted with 30 ml of toluene, and the extract obtained was combined with the organic layer previously separated, and the mixture was washed with water. Thereafter, 60 ml of water was added to the organic layer, and the pH was adjusted to 0.5 with 6N hydrochloric acid, after which the mixture was stirred at 25° C. for 1 hour. The aqueous layer was separated and washed with ethyl acetate, and thereto was added 40 ml of ethyl acetate, after which the pH was adjusted to 10.2 with potassium carbonate. The organic layer formed was separated, washed successively with water and an aqueous saturated sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue thus obtained were dissolved in 60 ml of ethyl acetate and 40 ml of acetone to form a solution. To the solution was added 7 ml of a solution of hydrogen chloride in ethanol (6.1N). The solution was stirred at 20° C. for 2 hours, and the crystals thus separated were collected by filtration to obtain 10.7 g (yield: 90%) of (-)-1-(benzo[b]thiophen-5-yl)-2-[2-(N,N-diethylamino)ethoxy]ethanol hydrochloride. This was recrystallized from ethyl acetate-ethanol to obtain colorless needle crystals having a melting point of 120°-121° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | (-)-2-(benzo[b]thiophen-5-yl)-2-(tetrahydropyranyloxy)ethanol | 10 g | S1C2=C(C=C1)C=C(C=C2)C(CO)OC2OCCCC2 | C15H18O3S
reactant | 2-(N,N-diethylamino)ethyl chloride hydrochloride | 8.04 g | Cl.C(C)N(CC)CCCl
reactant | hydrogen chloride | Cl | ClH
catalyst | tetra-n-butylammonium hydrogensulfate | 610 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 6.1N | C(C)O | C2H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 150 ml | O | H2O
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (-)-1-(benzo[b]thiophen-5-yl)-2-[2-(N,N-diethylamino)ethoxy]ethanol hydrochloride | 10.7 g, yield: 90% | Cl.S1C2=C(C=C1)C=C(C=C2)C(COCCN(CC)CC)O | InChI=1S/C16H23NO2S.ClH/c1-3-17(4-2)8-9-19-12-15(18)13-5-6-16-14(11-13)7-10-20-16;/h5-7,10-11,15,18H,3-4,8-9,12H2,1-2H3;1H
